US04613609
A. 1-Cyclohexylmethyl-3-[4-(4-chlorophenyl)butyl]imidazolium chloride
Add 6.55 g (0.03 mole) of 1-chloro-4-(4-chlorobutyl)benzene to 4.81 g (0.293 mole) of 1-cyclohexylmethyl-1H-imidazole and heat at 130° C. for 18 hours.

reactant | 1-chloro-4-(4-chlorobutyl)benzene | 0.03 mole, 6.55 g | ClC1=CC=C(C=C1)CCCCCl | C10H12Cl2
reactant | 1-cyclohexylmethyl-1H-imidazole | 0.293 mole, 4.81 g | C1(CCCCC1)CN1C=NC=C1 | C10H16N2
product | 1-Cyclohexylmethyl-3-[4-(4-chlorophenyl)butyl]imidazolium chloride | [Cl-].C1(CCCCC1)C[N+]1=CN(C=C1)CCCCC1=CC=C(C=C1)Cl | InChI=1S/C20H28ClN2.ClH/c21-20-11-9-18(10-12-20)6-4-5-13-22-14-15-23(17-22)16-19-7-2-1-3-8-19;/h9-12,14-15,17,19H,1-8,13,16H2;1H/q+1;/p-1
